US06919331B2
A solution containing 1-[4-chloromethyl-1-(3-methyl-butyl)-1H-benzoimidazol-2-ylmethyl]-3-isopropyl-1,3-dihydro-benzoimidazol-2-one; HCl salt (69 mg, 0.15 mmol) and sodium cyanide (30 mg, 0.62 mmol) in DMSO (1.5 mL) was stirred at room temperature for 1.5 h. The mixture was quenched with water (15 mL) and 1M NaOH (0.5 mL). The aqueous suspension was extracted with diethyl ether (2×10 mL) and the combined organic extracts washed with water, brine and dried (MgSO4). [2-(3-Isopropyl-2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazol-4-yl]-acetonitrile was obtained after concentration as a white solid (55 mg, 89%) and was used in the next step without purification:

reactant | 1-[4-chloromethyl-1-(3-methyl-butyl)-1H-benzoimidazol-2-ylmethyl]-3-isopropyl-1,3-dihydro-benzoimidazol-2-one | ClCC1=CC=CC=2N(C(=NC21)CN2C(N(C1=C2C=CC=C1)C(C)C)=O)CCC(C)C | C24H29ClN4O
reactant | HCl | 0.15 mmol, 69 mg | Cl | ClH
reactant | sodium cyanide | 0.62 mmol, 30 mg | [C-]#N.[Na+]
solvent | DMSO | 1.5 mL | CS(=O)C | C2H6OS
product | [2-(3-Isopropyl-2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazol-4-yl]-acetonitrile | C(C)(C)N1C(N(C2=C1C=CC=C2)CC2=NC1=C(N2CCC(C)C)C=CC=C1CC#N)=O | C25H29N5O
